US04906644
Synthesis of 1-(4-hydroxyphenyl)-3-(1-imidazolylmethyl)-2-pyrazolin-5-one (Compound No. 50)
To a mixture of 1 ml of 47% hydrobromic acid and 1 ml of acetic acid was added 100 mg of 3-(1-imidazolylmethyl)-2-pyrazolin-5-one and stirred under reflux for 4 hours. After removing the solvent by evaporating, the residue was adjusted in pH to 4 by adding water and an aqueous NaHCO3 solution and then extracted with a mixed solvent of chloroform and ethanol (4:1).

reactant | hydrobromic acid | 1 ml | Br | BrH
reactant | 3-(1-imidazolylmethyl)-2-pyrazolin-5-one | 100 mg | N1C(=NC=C1)CC1=NNC(C1)=O | C7H8N4O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(4-hydroxyphenyl)-3-(1-imidazolylmethyl)-2-pyrazolin-5-one | OC1=CC=C(C=C1)N1N=C(CC1=O)CC=1NC=CN1 | C13H12N4O2
